US08389524B2
(j) 7-(Methyloxy)-1-(2-oxiranylmethyl)-3,4-dihydro-1,8-naphthyridin-2(1H)-one
A solution of 1-(2,3-dihydroxypropyl)-7-(methyloxy)-3,4-dihydro-1,8-naphthyridin-2(1H)-one (2.325 g, 9.226 mmol) in DCM (40 ml) and triethylamine (1.915 ml, 13.839 mmol) at 0° C. under argon was treated with methanesulfonyl chloride (0.714 ml, 9.226 mmol) and stirred at 0° C. for 0.5 h. The reaction mixture was then treated with water (100 ml), extracted with DCM (3×100 ml). The organic extracts were dried (MgSO4), and evaporated. The residue was then dissolved in methanol (50 ml) and treated with potassium carbonate (6.366 g, 46.130 mmol) and stirred at rt for 15 min. The reaction mixture was then treated with water (100 ml), extracted with DCM (3×200 ml). The organic extracts were dried (MgSO4), evaporated and chromatographed (0-100% ethyl acetate:Hexane) to give the product as a yellow oil (428 mg, 20%).

reactant | 1-(2,3-dihydroxypropyl)-7-(methyloxy)-3,4-dihydro-1,8-naphthyridin-2(1H)-one | 9.226 mmol, 2.325 g | OC(CN1C(CCC2=CC=C(N=C12)OC)=O)CO | C12H16N2O4
reactant | triethylamine | 13.839 mmol, 1.915 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 9.226 mmol, 0.714 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | potassium carbonate | 46.130 mmol, 6.366 g | C([O-])([O-])=O.[K+].[K+]
solvent | DCM | 40 ml | C(Cl)Cl | CH2Cl2
solvent | water | 100 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 7-(Methyloxy)-1-(2-oxiranylmethyl)-3,4-dihydro-1,8-naphthyridin-2(1H)-one | 428 mg, 20% | COC1=CC=C2CCC(N(C2=N1)CC1OC1)=O | C12H14N2O3
